US09034866B2
10-Bromo-9-fluoro-N3-methyl-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2,3-dicarboxamide (0.1 g) was reacted with (2R)-2-(5-methylisoxazol-3-yl)but-3-yn-2-ol similar to as described in Procedure E to afford 32.6 mg of 9-fluoro-10-[(3R)-3-hydroxy-3-(5-methylisoxazol-3-yl)but-1-ynyl]-N3-methyl-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2,3-dicarboxamide following reverse phase hplc purification. MS (Q1) 454 (M)+. 1H NMR (400 MHz, DMSO) δ 11.08 (q, J=4.2 Hz, 1H), 8.64 (d, J=8.4 Hz, 1H), 8.39 (s, 1H), 7.88 (s, 1H), 7.05 (d, J=10.5 Hz, 1H), 6.56 (s, 1H), 6.35 (s, 1H), 5.04-4.95 (m, 2H), 4.59-4.51 (m, 2H), 2.80 (d, J=4.5 Hz, 3H), 2.41 (s, 3H), 1.82 (s, 3H).

reactant | 10-Bromo-9-fluoro-N3-methyl-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2,3-dicarboxamide | 0.1 g | BrC=1C(=CC2=C(C=3N(CCO2)C(=C(N3)C(=O)N)C(=O)NC)C1)F | C14H12BrFN4O3
reactant | (2R)-2-(5-methylisoxazol-3-yl)but-3-yn-2-ol | CC1=CC(=NO1)[C@@](C)(C#C)O | C8H9NO2
product | 9-fluoro-10-[(3R)-3-hydroxy-3-(5-methylisoxazol-3-yl)but-1-ynyl]-N3-methyl-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2,3-dicarboxamide | 32.6 mg | FC1=CC2=C(C=3N(CCO2)C(=C(N3)C(=O)N)C(=O)NC)C=C1C#C[C@](C)(C1=NOC(=C1)C)O | C22H20FN5O5
